US07291631B2
To a cold (−78° C.) solution of LDA (24.5 mmol) in dry THF (100 mL) was added 2-bromopyridine (2.0 mL, 20.9 mmol) and the resultant solution was stirred for 90 minutes. Cyclopentanone (4.0 mL, 45.2 mmol) was added and the mixture was stirred for and additional 80 minutes. The mixture was treated with saturated aqueous NaHCO3 (20 mL) and warmed to room temperature. The mixture was diluted with EtOAc (300 mL) and the phases were separated. The organic phase was washed with saturated aqueous NaHCO3 (3×25 mL) and brine (3×25 mL), dried (MgSO4), and concentrated. Purification of the crude material by column chromatography on silica gel (3:1 hexanes-EtOAc) provided 2.00 g (40%) of 1-(2-Bromo-pyridin-3-yl)-cyclopentanol as a yellow oil.

reactant | LDA | 24.5 mmol | [Li+].CC(C)[N-]C(C)C
reactant | 2-bromopyridine | 20.9 mmol, 2.0 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | Cyclopentanone | 45.2 mmol, 4.0 mL | C1(CCCC1)=O | C5H8O
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 1-(2-Bromo-pyridin-3-yl)-cyclopentanol | 2.00 g, 40% | BrC1=NC=CC=C1C1(CCCC1)O | C10H12BrNO
